US09351964B2
Step-1: To a stirred solution of N—BOC 4-hydroxypiperidine (7.50 g, 0.0373 mol) in dry DMF (50 mL) was added 95% NaH solid (1.12 g, 0.047 mol) in small portions over 5-10 min. After the evolution of gas had subsided, 4-chlorobenzonitrile (5.18 g, 0.0376 mol) was added in one portion, and the mixture heated to 60° C. overnite. The mixture was diluted with tBuOH (about 5 mL) and neutralized to pH 7 using glacial AcOH. The DMF was concentrated in vacuo, and the crude product chromatographed over a 120 g Isco column using 20% DCM/hexanes to DCM as an eluent to get step-1 product, 4-(4-cyanophenoxy)piperidine-1-carboxylic acid tert-butyl ester, as a white solid (10.33 g, 92%): LC Rt=3.40; 1H NMR (300 MHz, CDCl3) δ 1.46 (s, 9H), 1.74-1.80 (m, 2H), 1.89-1.97 (m, 2H), 3.40 (ddd, J=10.3, 7.6, 4.0 Hz, 2H), 3.68 (ddd, J=10.3, 8.7, 4.0 Hz, 2H), 4.55 (septet, J=3.6 Hz, 1H), 6.94 (d, J=9.0 Hz, 2H), 7.58 (d, J=9.0 Hz, 2H).

reactant | N—BOC 4-hydroxypiperidine | 0.0373 mol, 7.50 g | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
reactant | NaH | 0.047 mol, 1.12 g | [H-].[Na+]
reactant | 4-chlorobenzonitrile | 0.0376 mol, 5.18 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | AcOH | CC(=O)O | C2H4O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | tBuOH | about 5 mL | CC(C)(C)O | C4H10O
product | 4-(4-cyanophenoxy)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C#N | C17H22N2O3
